US07615642B2
N-Cyclopropyl-1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxamide
Following the same procedure in Example 29, using N-cyclopropyl-1H-pyrrole-3-carboxamide (49 mg, 0.33 mmol) (see the step B in example 32 for preparation), sodium hydride (110 mg, 60%, 2.75 mmol) and 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (354 mg, 0.92 mmol) in THF (10 mL). The crude product was purified by MPLC using Hex/EtOAc (3:7) on silica gel to give 137 mg (83%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.50-0.57 (m, 2 H), 0.69-0.75 (m, 2 H), 0.78 (t, J=7.42 Hz, 3 H), 1.42-1.56 (m, 4 H), 1.60 (s, 6 H), 1.95 (q, J=7.62 Hz, 2 H), 2.21-2.37 (m, 1 H), 2.67-2.75 (m, 1 H), 3.23-3.35 (m, 2 H), 3.84-3.93 (m, 2 H), 4.43 (d, J=7.42 Hz, 2 H), 6.65 (dd, J=3.32, 1.76 Hz, 1 H), 7.28 (dd, J=3.32, 2.15 Hz, 1 H), 7.77-7.84 (m, 1 H), 7.90-8.01 (m, 2 H), 8.26 (d, J=0.78 Hz, 1 H); MS (ESI) (M+H)+=499.0; Anal. Calcd for C26H34N4O4S+1.2 TFA (635.48): C, 53.68; H, 5.58; N, 8.82. Found: C, 53.65; H, 5.61; N, 8.56.

reactant | N-cyclopropyl-1H-pyrrole-3-carboxamide | 0.33 mmol, 49 mg | C1(CC1)NC(=O)C1=CNC=C1 | C8H10N2O
reactant | sodium hydride | 2.75 mmol, 110 mg | [H-].[Na+]
reactant | 2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.92 mmol, 354 mg | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C18H25ClN2O3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-Cyclopropyl-1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxamide | 137 mg, 83% | C1(CC1)NC(=O)C1=CN(C=C1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(CC)(C)C)CC2CCOCC2)C=C1 | C26H34N4O4S
